### PR TITLE
Lagrange's theorem

### PR DESCRIPTION
**Pull request by Alizter**
It's a bit annoying that subgroups of finite groups cannot be shown to be finite in general. As I understand, if we could show them to be, then the subgroups would end up being decidable.

Of course, under LEM every subgroup becomes decidable, but I think this is an even more unreasonable assumption to carry around then just asking for a subgroup to be finite.

### CODE REVIEW

File: theories/Algebra/Groups/Lagrange.v [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+  1: hnf; trivial.
+  exact _.
+Defined.
+
+Corollary lagrange_noraml {U : Univalence} (G : Group) (H : NormalSubgroup G)
+  (fin_G : Finite G) (fin_H : Finite H)
+  : fcard (QuotientGroup G H) * fcard H = fcard G.
+Proof.
+  apply lagrange.
+Defined.
```
Comment (Alizter) [inline theories/Algebra/Groups/Lagrange.v:53]:
```suggestion
Defined.

```

File: theories/Algebra/Groups/QuotientGroup.v [hunk 2]
```diff
@@ -252,3 +252,16 @@ Section FirstIso.
...
+Global Instance finite_quotientgroup {U : Univalence} (G : Group) (H : NormalSubgroup G)
+  (fin_G : Finite G) (fin_H : Finite H)
+  : Finite (QuotientGroup G H).
+Proof.
+  nrapply finite_quotient.
+  1-6: exact _.
+  intros x y.
+  pose (dec_H := detachable_finite_subset H).
+  apply dec_H.
+Defined.
```
Comment (Alizter) [inline theories/Algebra/Groups/QuotientGroup.v:267]:
```suggestion
Defined.

```

**Comment by JasonGross** [comment]
> It's a bit annoying that subgroups of finite groups cannot be shown to be finite in general. 

Is knowing that a group is finite about knowing exactly how many elements it has, or about placing an upper bound on how many elements it has?  How much group theory can you do with injections into `Fin n`?

File: theories/Algebra/Groups/Lagrange.v [hunk 3]
```diff
@@ -0,0 +1,53 @@
...
+  (fin_G : Finite G) (fin_H : Finite H)
+  : exists d, d * (fcard H) = fcard G.
+Proof.
+  exists (subgroup_index G H _ _).
+  symmetry.
+  refine (fcard_quotient (in_cosetL H) @ _).
+  refine (_ @ finplus_const _ _).
+  apply ap, path_forall.
+  srapply Quotient_ind_hprop.
+  simpl. (** simpl is better than cbn here *)
```
Comment (JasonGross) [inline theories/Algebra/Groups/Lagrange.v:37]: In terms of the terms it produces, or in terms of performance?

Comment (Alizter) [reply theories/Algebra/Groups/Lagrange.v:37]: Both, `simpl` seems to efficiently produce better terms. When I do `cbn` it gets stuck unfolding some things. I am not sure what is going on.

Comment (JasonGross) [reply theories/Algebra/Groups/Lagrange.v:37]: Perhaps worth extracting a stand-alone example with the bug minimizer and reporting it as an issue in Coq?

File: theories/Algebra/Groups/Lagrange.v [hunk 4]
```diff
@@ -0,0 +1,53 @@
+Require Import Basics Types.
+Require Import Algebra.Groups.Group.
+Require Import Algebra.Groups.Subgroup.
+Require Import Algebra.Groups.QuotientGroup.
+Require Import Algebra.Groups.FiniteGroup.
```
Comment (Alizter) [inline theories/Algebra/Groups/Lagrange.v:5]:
```suggestion
```

**Comment by mikeshulman** [comment]
The former.  The latter would be a [subfinite](https://ncatlab.org/nlab/show/finite+set) group.

File: theories/Algebra/Groups/Lagrange.v (hunk 3 above)
Comment (Alizter) [reply theories/Algebra/Groups/Lagrange.v:36]: Is the bug minimizer able to minimize other files in the library at the same time? So far I have only got it to work with the one file.

Comment (JasonGross) [reply theories/Algebra/Groups/Lagrange.v:36]: Yeah, if you build the whole library ahead of time and then do something like `find-bug.py <path/to/bug.v> <output.v> --no-deps -R theories HoTT --arg=-noinit --arg=-indices-matter`, then it should be able to inline the other files as necessary.

Comment (Alizter) [reply theories/Algebra/Groups/Lagrange.v:36]: So this looks like a difficult bug to resolve. After doing the bug minimizer, simpl and cbn have the same behaviour:
```coq
(* -*- mode: coq; coq-prog-args: ("-emacs" "-noinit" "-indices-matter" "-R" "theories" "HoTT" "-top" "Lagrange") -*- *)
(* File reduced by coq-bug-finder from original input, then from 169 lines to 34 lines, then from 148 lines to 425 lines, then from 429 lines to 36 lines, then from 145 lines to 157 lines, then from 161 lines to 37 lines, then from 142 lines to 274 lines, then from 276 lines to 38 lines, then from 142 lines to 500 lines, then from 503 lines to 67 lines, then from 172 lines to 336 lines, then from 340 lines to 67 lines, then from 172 lines to 196 lines, then from 200 lines to 67 lines, then from 172 lines to 531 lines, then from 534 lines to 124 lines, then from 228 lines to 935 lines, then from 938 lines to 152 lines, then from 253 lines to 698 lines, then from 701 lines to 174 lines, then from 273 lines to 278 lines, then from 282 lines to 173 lines, then from 273 lines to 535 lines, then from 536 lines to 174 lines, then from 273 lines to 300 lines, then from 304 lines to 173 lines, then from 273 lines to 327 lines, then from 329 lines to 174 lines, then from 273 lines to 333 lines, then from 337 lines to 173 lines, then from 273 lines to 334 lines, then from 338 lines to 173 lines, then from 273 lines to 336 lines, then from 340 lines to 173 lines, then from 273 lines to 304 lines, then from 308 lines to 173 lines, then from 273 lines to 308 lines, then from 312 lines to 173 lines, then from 273 lines to 303 lines, then from 307 lines to 173 lines, then from 273 lines to 446 lines, then from 449 lines to 174 lines, then from 273 lines to 459 lines, then from 462 lines to 173 lines, then from 273 lines to 399 lines, then from 402 lines to 173 lines, then from 273 lines to 427 lines, then from 431 lines to 173 lines, then from 273 lines to 529 lines, then from 533 lines to 174 lines, then from 273 lines to 332 lines, then from 336 lines to 173 lines, then from 273 lines to 377 lines, then from 381 lines to 174 lines, then from 273 lines to 474 lines, then from 478 lines to 174 lines, then from 273 lines to 348 lines, then from 352 lines to 173 lines, then from 273 lines to 654 lines, then from 657 lines to 173 lines, then from 273 lines to 623 lines, then from 625 lines to 174 lines, then from 273 lines to 711 lines, then from 715 lines to 174 lines, then from 273 lines to 281 lines, then from 285 lines to 173 lines, then from 273 lines to 486 lines, then from 490 lines to 174 lines, then from 273 lines to 906 lines, then from 908 lines to 174 lines, then from 273 lines to 497 lines, then from 499 lines to 174 lines, then from 273 lines to 322 lines, then from 326 lines to 173 lines, then from 273 lines to 653 lines, then from 656 lines to 174 lines, then from 273 lines to 301 lines, then from 304 lines to 173 lines, then from 273 lines to 1087 lines, then from 1087 lines to 173 lines, then from 273 lines to 483 lines, then from 487 lines to 174 lines, then from 273 lines to 800 lines, then from 804 lines to 175 lines, then from 273 lines to 521 lines, then from 525 lines to 174 lines, then from 273 lines to 881 lines, then from 884 lines to 174 lines, then from 273 lines to 721 lines, then from 724 lines to 174 lines, then from 273 lines to 404 lines, then from 408 lines to 173 lines, then from 273 lines to 535 lines, then from 537 lines to 174 lines, then from 273 lines to 405 lines, then from 409 lines to 173 lines, then from 273 lines to 442 lines, then from 446 lines to 173 lines, then from 273 lines to 427 lines, then from 431 lines to 173 lines, then from 273 lines to 289 lines, then from 293 lines to 173 lines, then from 273 lines to 366 lines, then from 370 lines to 173 lines, then from 273 lines to 1299 lines, then from 1303 lines to 174 lines, then from 273 lines to 814 lines, then from 817 lines to 174 lines, then from 273 lines to 470 lines, then from 474 lines to 173 lines, then from 273 lines to 1036 lines, then from 1030 lines to 173 lines, then from 273 lines to 501 lines, then from 503 lines to 174 lines, then from 273 lines to 676 lines, then from 677 lines to 174 lines, then from 273 lines to 696 lines, then from 700 lines to 173 lines, then from 273 lines to 948 lines, then from 950 lines to 173 lines, then from 273 lines to 338 lines, then from 342 lines to 173 lines, then from 273 lines to 401 lines, then from 405 lines to 173 lines, then from 273 lines to 289 lines, then from 293 lines to 173 lines, then from 273 lines to 350 lines, then from 354 lines to 173 lines, then from 273 lines to 392 lines, then from 394 lines to 173 lines, then from 273 lines to 304 lines, then from 308 lines to 173 lines, then from 273 lines to 524 lines, then from 528 lines to 173 lines, then from 273 lines to 499 lines, then from 503 lines to 173 lines, then from 273 lines to 401 lines, then from 405 lines to 173 lines, then from 273 lines to 416 lines, then from 420 lines to 173 lines, then from 273 lines to 405 lines, then from 409 lines to 173 lines, then from 273 lines to 316 lines, then from 320 lines to 173 lines, then from 273 lines to 567 lines, then from 566 lines to 173 lines, then from 177 lines to 173 lines *)
(* coqc version 8.13.1 (March 2021) compiled on Mar 31 2021 10:55:51 with OCaml 4.11.0
   coqtop version 8.13.1 (March 2021) *)
Inductive False := .
Axiom proof_admitted : False.
Declare ML Module "ltac_plugin".
Tactic Notation "admit" := abstract case proof_admitted.
Require HoTT.Classes.interfaces.canonical_names.
Require HoTT.Spaces.Finite.Finite.
Export HoTT.HIT.Coeq.
Export HoTT.Classes.interfaces.canonical_names.

Section upper_classes.
  Context (A : Type@{i}).

  Local Open Scope mc_mult_scope.

  Class IsSemiGroup {Aop: SgOp A} :=
    { sg_set :> IsHSet A
    ; sg_ass :> Associative (.*.) }.

  Class IsMonoid {Aop : SgOp A} {Aunit : MonUnit A} :=
    { monoid_semigroup :> IsSemiGroup
    ; monoid_left_id :> LeftIdentity (.*.) mon_unit
    ; monoid_right_id :> RightIdentity (.*.) mon_unit }.

  Class IsGroup {Aop : SgOp A} {Aunit : MonUnit A} {Anegate : Negate A} :=
    { group_monoid :> @IsMonoid (.*.) Aunit
    ; negate_l :> LeftInverse (.*.) (-) mon_unit
    ; negate_r :> RightInverse (.*.) (-) mon_unit }.

End upper_classes.

Record Group := {
  group_type : Type;
  group_sgop : SgOp group_type;
  group_unit : MonUnit group_type;
  group_inverse : Negate group_type;
  group_isgroup : IsGroup group_type;
}.

Coercion group_type : Group >-> Sortclass.
Global Existing Instances group_sgop group_unit group_inverse group_isgroup.

Create HintDb group_db.

Local Definition grp_law_associativity {G : Group} (x y z : G) := associativity x y z.
#[export] Hint Immediate grp_law_associativity : group_db.
Local Definition grp_law_left_identity {G : Group} (x : G) := left_identity x.
#[export] Hint Immediate grp_law_left_identity : group_db.
Local Definition grp_law_right_identity {G : Group} (x : G) := right_identity x.
#[export] Hint Immediate grp_law_right_identity : group_db.
Local Definition grp_law_left_inverse {G : Group} (x : G) := left_inverse x.
#[export] Hint Immediate grp_law_left_inverse : group_db.
Local Definition grp_law_right_inverse {G : Group} (x : G) := right_inverse x.
#[export] Hint Immediate grp_law_right_inverse : group_db.

#[export] Hint Extern 6 (@paths (sig _) _ _) => (rapply path_sigma_hprop) : group_db.

Tactic Notation "grp_auto" := hnf; intros; eauto with group_db.

Local Open Scope mc_mult_scope.

Class IsSubgroup {G : Group} (H : G -> Type) := {
  issubgroup_predicate : forall x, IsHProp (H x) ;
  issubgroup_unit : H mon_unit ;
  issubgroup_op : forall x y, H x -> H y -> H (x * y) ;
  issubgroup_inverse : forall x, H x -> H (- x) ;
}.

Global Existing Instance issubgroup_predicate.

Record Subgroup (G : Group) := {
  subgroup_pred : G -> Type ;
  subgroup_issubgroup : IsSubgroup subgroup_pred ;
}.

Coercion subgroup_pred : Subgroup >-> Funclass.
Global Existing Instance subgroup_issubgroup.

Definition subgroup_group (G : Group) (H : Subgroup G) : Group.
Proof.
  apply (Build_Group

      (sig H)

      (fun '(x ; p) '(y ; q) => (x * y ; issubgroup_op x y p q))

      (mon_unit ; issubgroup_unit)

      (fun '(x ; p) => (- x ; issubgroup_inverse _ p))).

  repeat split.
  1: exact _.
  all: grp_auto.
Defined.

Coercion subgroup_group : Subgroup >-> Group.

Section Cosets.

  Context {G : Group} (H : Subgroup G).

  Definition in_cosetL : Relation G := fun x y => H (-x * y).

  Hint Unfold in_cosetL : typeclass_instances.

  Global Instance ishprop_in_cosetL : is_mere_relation G in_cosetL := _.

  Global Instance reflexive_in_cosetL : Reflexive in_cosetL.
admit.
Defined.

  Global Instance symmetric_in_cosetL : Symmetric in_cosetL.
admit.
Defined.

  Global Instance transitive_in_cosetL : Transitive in_cosetL.
admit.
Defined.

End Cosets.

Definition Quotient@{i j k} {A : Type@{i}} (R : Relation@{i j} A) : Type@{k}
  := Trunc@{k} 0 (Coeq@{k k}
    (fun x : sig@{k k} (fun a : A => sig (R a)) => x.1)
    (fun x : sig@{k k} (fun a : A => sig (R a)) => x.2.1)).

Definition class_of@{i j k} {A : Type@{i}} (R : Relation@{i j} A)
  : A -> Quotient@{i j k} R := tr o coeq.

Notation "A / R" := (Quotient (A:=A) R).

Section Equiv.

  Context `{Univalence} {A : Type} (R : Relation A) `{is_mere_relation _ R}
    `{Transitive _ R} `{Symmetric _ R} `{Reflexive _ R}.

  Definition Quotient_ind_hprop
    (P : A / R -> Type) `{forall x, IsHProp (P x)}
    (dclass : forall x, P (class_of R x)) : forall q, P q.
admit.
Defined.

End Equiv.

Export HoTT.Spaces.Finite.Finite.
Import Spaces.Nat.

Local Open Scope nat_scope.

Definition subgroup_index {U : Univalence} (G : Group) (H : Subgroup G)
  (fin_G : Finite G) (fin_H : Finite H)
  : nat.
Proof.
  refine (fcard (Quotient (in_cosetL H))).
  nrapply finite_quotient.
  1-6: exact _.
  intros x y.
  pose (dec_H := detachable_finite_subset H).
  apply dec_H.
Defined.

Theorem lagrange {U : Univalence} (G : Group) (H : Subgroup G)
  (fin_G : Finite G) (fin_H : Finite H)
  : exists d, d * (fcard H) = fcard G.
Proof.
  exists (subgroup_index G H _ _).
  symmetry.
  refine (fcard_quotient (in_cosetL H) @ _).
  refine (_ @ finplus_const _ _).
  apply ap, path_forall.
  srapply Quotient_ind_hprop.
  cbn.
  Fail simpl.
```

Comment (Alizter) [reply theories/Algebra/Groups/Lagrange.v:36]: So I'm not really sure what cbn is doing before? AFAIK there is no easy way to debug this right?

Comment (JasonGross) [reply theories/Algebra/Groups/Lagrange.v:36]: I think you want to rig up a fancier "error message" for the bug minimizer.  I'm thinking of something like:
```coq
first [ timeout <small time> do 10 assert_succeeds simpl | fail 1 "simpl took too long" ].
first [ timeout <small time> do 10 assert_succeeds cbn | fail 1 "cbn was too fast" ].
Set Printing All. Set Printing Depth 1000000000.
let G := match goal with |- ?G => G end in
let s := (eval simpl in G) in
let c := (eval cbn in G) in
fail 0 "simpl gives" s "cbn gives" c.
```
Change `10` to whatever number is necessary to get a time granularity that can be measured in whole seconds.  You may need to port `assert_succeeds` from the Coq standard lib, or in this case you can just replace it with `try (tac; fail)` (this is to undo the effect after running the tactic).  You may also want to pass `--no-admit-transparent`, but it's probably not necessary given that we're testing the timing.  The effect of all of this will be to ensure that nothing is removed that changes the timing behavior of the simplification tactics too much, and also that nothing is removed that changes the end state of simplification.

Comment (Alizter) [reply theories/Algebra/Groups/Lagrange.v:36]: I have no idea what has changed, but `cbn` also seems to work now. I suspect that I had some non-predicate subgroup compiled files left over which was known to cause problems with cbn. It works fine now, but still `simpl` gives better terms. I think I can fix this with some unfolding tweaking however.

Comment (Alizter) [reply theories/Algebra/Groups/Lagrange.v:36]: Ah wait actually scratch that I found the bug again.

Comment (Alizter) [reply theories/Algebra/Groups/Lagrange.v:36]: I think it is to do with quotients. If I unfold `in_class` then `cbn` gets stuck but `simpl` succeeds.

**Comment by Alizter** [comment]
rebased

File: theories/Algebra/Groups/Lagrange.v [hunk 5]
```diff
@@ -0,0 +1,52 @@
...
+  exists (subgroup_index G H _ _).
+  symmetry.
+  refine (fcard_quotient (in_cosetL H) @ _).
+  refine (_ @ finplus_const _ _).
+  apply ap, path_forall.
+  srapply Quotient_ind_hprop.
+  simpl. (** simpl is better than cbn here *)
+  intros x.
+  apply fcard_equiv'.
+  (** Now we must show that cosets are all equivalent as types. *)
```
Comment (andreaslyn) [inline theories/Algebra/Groups/Lagrange.v:39]: Is this useful as a seperate lemma?

**Review by andreaslyn — APPROVED** [review]
This looks good to me.

File: theories/Algebra/Groups/Lagrange.v [hunk 6]
```diff
@@ -0,0 +1,52 @@
...
+  simpl.
+  snrapply equiv_functor_sigma.
+  2: apply (isequiv_group_left_op (-x)).
+  1: hnf; trivial.
+  exact _.
+Defined.
+
+Corollary lagrange_noraml {U : Univalence} (G : Group) (H : NormalSubgroup G)
```
Comment (mikeshulman) [inline theories/Algebra/Groups/Lagrange.v:47]:
```suggestion
Corollary lagrange_normal {U : Univalence} (G : Group) (H : NormalSubgroup G)
```

**Review by mikeshulman — APPROVED** [review]

File: theories/Algebra/Groups/Lagrange.v (hunk 5 above)
Comment (Alizter) [reply theories/Algebra/Groups/Lagrange.v:39]: Perhaps, but I can't think of any use for it other than here. If we need it in the future we can seperate it out easily.

**Review by andreaslyn — APPROVED** [review]

**Comment by mikeshulman** [comment]
Something broke the build; was it this?

**Comment by Alizter** [comment]
@mikeshulman Looks like it. I will have a look now.
